US08420825B2
2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-isoleucyl-L-alaninate hydrochloride
414 mg (0.482 mmol) of 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-isoleucyl-L-alaninate were dissolved in 3 ml dichloromethane, and 4.822 ml of a 1N solution of hydrogen chloride in diethyl ether were added. After 6 hours of stirring, 2 ml of a 1N solution of hydrogen chloride in diethyl ether were added, and the mixture was stirred at room temperature for a further 24 hours. The precipitated solid was filtered off with suction, washed with diethyl ether and dried under reduced pressure. Since the reaction was still incomplete, the solid was stirred in 5 ml of a 1N solution of hydrogen chloride in diethyl ether for a further 24 h. The precipitated solid was filtered off with suction, washed with diethyl ether and dried under reduced pressure. 312 mg (81% of theory) of the target compound were obtained.

reactant | 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-isoleucyl-L-alaninate | 0.482 mmol, 414 mg | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | C43H48ClN7O6S2
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-isoleucyl-L-alaninate hydrochloride | Cl.N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | InChI=1S/C38H40ClN7O4S2.ClH/c1-4-23(2)33(42)35(47)43-24(3)38(48)50-18-17-49-29-13-9-25(10-14-29)32-30(19-40)34(46-15-5-6-16-46)45-37(31(32)20-41)52-22-28-21-51-36(44-28)26-7-11-27(39)12-8-26;/h7-14,21,23-24,33H,4-6,15-18,22,42H2,1-3H3,(H,43,47);1H/t23-,24-,33-;/m0./s1
